US05204473
1-Cyclohexyloxy-4-(n-dodecylamino)-2,2,6,6-tetramethylpiperidine
Acetic acid (22.0 g, 367 mmol) is added dropwise to a solution of 15.0 g (59.2 mmol) of 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-one and 54.9 g (296 mmol) of dodecylamine in 200 ml of dry tetrahydrofuran containing 5A molecular sieves (25 g). The reaction mixture warms during the addition. The mixture is then diluted with tetrahydrofuran (150 ml) and cooled to 21° C. Sodium cyanoborohydride (4.46 g, 7.1 mmol) is added in one portion. The reaction mixture is stirred at room temperature for 4 hours, then filtered. The filtrate is concentrated and the residue is partitioned between ether (400 ml) and 5% sodium hydroxide (250 ml). The organic layer is dried over magnesium sulfate, filtered, and concentrated. Residual dodecylamine is removed by Kugelrohr distillation (110° C., 0.3 mm). The crude product is purified by chromatography (silica gel) to afford 20.4 g (82% yield) of the title compound, as a nearly colorless oil.

reactant | Acetic acid | 367 mmol, 22.0 g | C(C)(=O)O | C2H4O2
reactant | 1-cyclohexyloxy-2,2,6,6-tetramethylpiperidin-4-one | 59.2 mmol, 15.0 g | C1(CCCCC1)ON1C(CC(CC1(C)C)=O)(C)C | C15H27NO2
reactant | dodecylamine | 296 mmol, 54.9 g | C(CCCCCCCCCCC)N | C12H27N
reactant | Sodium cyanoborohydride | 7.1 mmol, 4.46 g | C(#N)[BH3-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 1-Cyclohexyloxy-4-(n-dodecylamino)-2,2,6,6-tetramethylpiperidine | 20.4 g, 82% yield | C1(CCCCC1)ON1C(CC(CC1(C)C)NCCCCCCCCCCCC)(C)C | C27H54N2O
